US04824944
0.53 gram of daunorubicin in a free base is dissolved in 100 ml of methylene chloride. 1 ml of ethyl acetylacetate is added to the solution by constant stirring. The entire mixture is agitated for 12 hours at room temperature in a nitrogenic atmosphere. The reaction is checked by means of thin-layer chromatography on a silica gel in a toluene-acetone system in a ratio of 8:1. The solution is then evaporated until a small volume of composition remains and, the final product is pecipitated by the addition of a mixture of ethyl ether and hexane in a ratio of 1:1. The precipitated results from the mixture of acetone and ethyl ether. 0.4 g of N-(1-carboethoxy-propen-1-yl-2)-daunorubicin is obtained which corresponds to 60 percent of the theoretical yield. The composition decomposes at 151°-154° C., M.S.F.D. m/z 639 (M+, 80 percent of relative intensity); 640 (M+ +1, 100 percent of relative intensity); IR (KBr)ν=1590, 1610, 1650, 1670, 1715, 1720, cm-1 (chelate and free carbonyl groups).

reactant | daunorubicin | 0.53 gram | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)C)O)N)O | C27H29NO10
reactant | ethyl acetylacetate | 1 ml | C(C)(=O)CC(=O)OCC | C6H10O3
reactant | toluene acetone | C1(=CC=CC=C1)C.CC(=O)C
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(1-carboethoxy-propen-1-yl-2)-daunorubicin | 0.4 g | CCOC(=O)/C=C(\C)/N[C@H]1C[C@@H](O[C@H]([C@H]1O)C)O[C@H]2C[C@@](CC3=C(C4=C(C(=C23)O)C(=O)C5=C(C4=O)C=CC=C5OC)O)(C(=O)C)O | C33H37NO12
